US08809525B2
6-(3,5-Dimethylphenyl)-5-phenyl-1,2,4-triazin-3-amine (54 mg, 65%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and 3,5-dimethylphenylboronic acid (51.5 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-dimethylphenylboronic acid | 0.344 mmol, 51.5 mg | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
product | 6-(3,5-Dimethylphenyl)-5-phenyl-1,2,4-triazin-3-amine | 54 mg, 65% | CC=1C=C(C=C(C1)C)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C17H16N4
